US06103708
3-Iodo-4-methoxy-5-methylbenzaldehyde
At 5° C., to a stirred solution of 3-iodo-4-hydroxy-5-methylbenzaldehyde (3.53 g, 13.5 mmol) in THF (67.4 mL) was added 60% sodium hydride/mineral oil (0.701 g, 17.5 mmol). After 0.5 h, to the reaction was added dropwise iodomethane (1.34 mL, 21.6 mmol). After 2 h, the reaction was heated at 60° C. After 3 days, the reaction was cooled to ambient temperature, quenched with H2O (100 mL) and extracted with ether. The ethereal extracts were washed with 1N NaOH (3×), with brine (3×), dried (K2CO3) and concentrated. Purification on Biotage KP-Sil eluting with 15% acetone/hexane gave 2.24 g (60%) of the title compound. 1H NMR (DMSO-d6) δ 2.37 (s, 3 H), 3.77 (s, 3 H), 7.78 (s, 1 H), 8.17 (s, 1 H), 9.86 (s, 1 H).

reactant | 3-iodo-4-hydroxy-5-methylbenzaldehyde | 13.5 mmol, 3.53 g | IC=1C=C(C=O)C=C(C1O)C | C8H7IO2
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 21.6 mmol, 1.34 mL | IC | CH3I
solvent | THF | 67.4 mL | C1CCOC1 | C4H8O
product | 3-Iodo-4-methoxy-5-methylbenzaldehyde | 2.24 g, 60% | IC=1C=C(C=O)C=C(C1OC)C | C9H9IO2
